US08202857B2
(S)-4-(2-methylallyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one (38 mg, 0.08 mmol), 5-bromo-1-methylpyridin-2(1H)-one (23 mg, 1.5 equiv.), Pd(PPh3)2Cl2 (2 mg, cat. amount), 2M aq Na2CO3 (500 μL, excess), and 1,4-Dioxane (4 mL) were mixed. The mixture was evacuated and refilled with nitrogen gas (3×), before being heated to 90° C. overnight. After being cooled down, the mixture was concentrated, acidified with 5% aq HCl and purified by prep HPLC to afford (S)-1-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-4-(2-methylallyl)-4-phenyl-1,3-diazepan-2-one (16 mg, 44%). LC-MS Method 1 tR=1.76 min., m/z 456 (M+1); 1H NMR (CD3OD) δ 7.90 (s, 1H), 7.80 (dd, 1H), 7.47 (d, 2H), 7.39 (t, 2H), 7.30 (d, 3H), 6.96 (d, 2H), 6.61 (d, 1H), 5.32 (q, 1H), 5.02 (d, 1H), 3.61 (s, 3H), 2.59-2.45 (m, 2H), 1.49 (d, 3H), 1.15 (s, 3H).

reactant | (S)-4-(2-methylallyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one | 0.08 mmol, 38 mg | CC(C[C@]1(NC(N(CCC1)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)=C | C29H39BN2O3
reactant | 5-bromo-1-methylpyridin-2(1H)-one | 23 mg, 1.5 equiv. | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
reactant | Na2CO3 | 2M, 500 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)2Cl2 | 2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-Dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (S)-1-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-4-(2-methylallyl)-4-phenyl-1,3-diazepan-2-one | 16 mg, 44% | CN1C=C(C=CC1=O)C1=CC=C(C=C1)[C@H](C)N1C(N[C@](CCC1)(C1=CC=CC=C1)CC(=C)C)=O | C29H33N3O2
